US09107916B2
D. 2-(5-(3-hydroxyphenyl)-1H-pyrazol-1-yl)isonicotinic acid
To a solution of 2-[5-(3-methoxyphenyl)-1H-pyrazol-1-yl]pyridine-4-carboxylic acid (160 mg, 0.54 mmol) in CH2Cl2 (5 mL) was added 1 M BBr3 in CH2Cl2 (5 mL) at 0° C., then stirred at 45° C. overnight. The reaction mixture was cooled, concentrated and dissolved with EtOAc, then washed with water and brine. The organic phase was dried, concentrated and purified by prep-HPLC to give the title compound (54 mg, 35%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 6.60-6.65 (3H, m), 6.71 (1H, dd, J=8.4, 2.0 Hz), 7.11 (1H, t, J=8.0 Hz), 7.78-7.82 (2H, m), 8.04 (1H, s), 8.48 (1H, d, J=5.2 Hz), 9.46 (1H, s), 13.93 (1H, br s). [M+H] Calc'd for C15H11N3O3, 282. Found, 282.

reactant | 2-[5-(3-methoxyphenyl)-1H-pyrazol-1-yl]pyridine-4-carboxylic acid | 0.54 mmol, 160 mg | COC=1C=C(C=CC1)C1=CC=NN1C1=NC=CC(=C1)C(=O)O | C16H13N3O3
reactant | BBr3 | 1 M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-(3-hydroxyphenyl)-1H-pyrazol-1-yl)isonicotinic acid | 54 mg, 35% | OC=1C=C(C=CC1)C1=CC=NN1C=1C=C(C(=O)O)C=CN1 | C15H11N3O3
